US04794183
dl-cis-2-Benzyloxymethyl-3-hexadecylthiotetrahydropyran
0.27 g of a 55% w/w suspension of sodium hydride in mineral oil was suspended in 2 ml of dimethylformamide. To the suspension was added dropwise a solution of 1.210 g of dl-cis-2-benzyloxymethyl-3-mercaptotetrahydropyran (prepared as described in Preparation 16) in 5 ml of dimethylformamide, whilst ice-cooling the mixture. The reaction mixture was stirred at 60° C. for 1 hour, after which it was cooled to room temperature. A solution of 1.86 g of hexadecyl bromide in 3 ml of dimethylformamide was then added, and the mixture was stirred at room temperature for 1 hour. It was then poured into water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography through 40 g of silica gel. The fraction eluted with mixtures of diethyl ether and hexane ranging from 3:97 to 10:90 by volume was collected to give 2.284 g of the title compound as a solid.

reactant | sodium hydride | [H-].[Na+]
reactant | cis-2-benzyloxymethyl-3-mercaptotetrahydropyran | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@@H]1S | C13H18O2S
reactant | hexadecyl bromide | 1.86 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | cis-2-Benzyloxymethyl-3-hexadecylthiotetrahydropyran | 2.284 g | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@@H]1SCCCCCCCCCCCCCCCC | C29H50O2S
